US06911508B2
Preparation of (1,3-Dimethylcyclopentadienyl)indenylzirconium dichloride. (1,3-Me2Cp)IndZrCl2
To a yellow-orange suspension of indenylzirconium trichloride, IndZrCl3, (1.00 g, 3.20 mmol, 1.00 equiv.) in ether (30 mL) was added lithium 1,3-dimethylcyclopentadienide (0.32 g, 3.20 mmol, 1.00 equiv.). The reaction quickly turned yellow with much precipitate. The reaction was stirred 17 hours and then evaporated in vacuo, leaving yellow solid. The solid was extracted with dichloromethane (20 mL, then 2×10 mL) and the extracts were filtered to give yellow solid and a yellow solution. The solution was evaporated in vacuo, leaving bright yellow solid. Yield 1.07 g (90%). 1H NMR(CD2Cl2): δ 2.09 (s, 3H, Me), 5.65 (d, 2H), 5.94 (t, 1H), 6.48 (d, 2H), 6.82 (t, 1H), 7.28 (m, 2H, Ind), 7.64 (m, 2H, Ind).

reactant | indenylzirconium trichloride | [Cl-].[Cl-].[Cl-].C1(C=CC2=CC=CC=C12)[Zr+3]
reactant | lithium 1,3-dimethylcyclopentadienide | 3.20 mmol, 0.32 g, 1.00 equiv. | C[C-]1C=C(C=C1)C.[Li+]
solvent | ether | 30 mL | CCOCC | C4H10O
product | (1,3-Dimethylcyclopentadienyl)indenylzirconium dichloride | [Cl-].[Cl-].CC1(C=C(C=C1)C)[Zr+2]C1C=CC2=CC=CC=C12 | InChI=1S/C9H7.C7H9.2ClH.Zr/c1-2-5-9-7-3-6-8(9)4-1;1-6-3-4-7(2)5-6;;;/h1-7H;3-5H,1-2H3;2*1H;/q;;;;+2/p-2
